US08633186B2
N-(2-(benzyloxy)ethyl)-3-hydroxy-2,2-dimethylpropanamide
To a solution of 3-hydroxy-2,2-dimethylpropanoic acid (2.36 g, 20 mmol), 2-(benzyloxy)ethanamine (3.02 g, 20 mmol), and HOBt (2.71 g, 20 mmol) in dry dichloromethane (100 mL) was added EDCI (3.82 g, 20 mmol) at room temperature under nitrogen. The reaction mixture was then stirred at room temperature under nitrogen overnight. The reaction was quenched with brine, and extracted with EtOAc (3×). The combined organic layers were washed with saturated NaHCO3 solution, dilute HCl, brine, and dried over Na2SO4. After evaporation of the solvent, the residue was purified by chromatography on silica gel eluting with 40% EtOAc in hexanes to give the title compound as colorless oil (4.89 g) in 97% yield. MS 252 (MH+).

reactant | 3-hydroxy-2,2-dimethylpropanoic acid | 20 mmol, 2.36 g | OCC(C(=O)O)(C)C | C5H10O3
reactant | 2-(benzyloxy)ethanamine | 20 mmol, 3.02 g | C(C1=CC=CC=C1)OCCN | C9H13NO
reactant | HOBt | 20 mmol, 2.71 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 20 mmol, 3.82 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(2-(benzyloxy)ethyl)-3-hydroxy-2,2-dimethylpropanamide | 4.89 g, 97% yield | C(C1=CC=CC=C1)OCCNC(C(CO)(C)C)=O | C14H21NO3
